US05736534
4-(6-Bromo-5-fluoro-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline hydrochloride salt
Utilizing a procedure analogous to that described in Example 1 (with conversion to the HCl salt as outlined for Example 2), this product was prepared in 74% yield from 6-bromo-5-fluoro-indoline (1.1 eq.), and 4-chloro-7-methoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 252°-252° C.; LC-MS: 374, 376 (MH+); anal. RP18-HPLC RT: 5.26 min.).

reactant | HCl | Cl | ClH
reactant | 6-bromo-5-fluoro-indoline | 1.1 eq. | BrC1=C(C=C2CCNC2=C1)F | C8H7BrFN
reactant | 4-chloro-7-methoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=CC=C12)OC | C9H7ClN2O
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(6-Bromo-5-fluoro-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline hydrochloride salt | 74% yield | Cl.BrC1=C(C=C2CCN(C2=C1)C1=NC=NC2=CC(=CC=C12)OC)F | InChI=1S/C17H13BrFN3O.ClH/c1-23-11-2-3-12-15(7-11)20-9-21-17(12)22-5-4-10-6-14(19)13(18)8-16(10)22;/h2-3,6-9H,4-5H2,1H3;1H
